US07476741B2
A mixture of the 3-(3-bromo-4,5-dimethoxy-phenyl)-propenal (200 mg; 0.74 mmol), 3-(dimethylamino)phenol (101 mg, 0.74 mmol) and morpholine (65 μl; 0.75 mmol) in dry methanol (5 ml) was refluxed for 2 h and stirred at room temperature for 16 h. The solvent was removed and the intermediate [4-(3-bromo-4,5-dimethoxy-phenyl)-2-morpholin-4-yl-chroman-7-yl]-dimethyl-amine was obtained (350 mg).

reactant | 3-(3-bromo-4,5-dimethoxy-phenyl)-propenal | 0.74 mmol, 200 mg | BrC=1C=C(C=C(C1OC)OC)C=CC=O | C11H11BrO3
reactant | 3-(dimethylamino)phenol | 0.74 mmol, 101 mg | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | morpholine | 0.75 mmol, 65 μl | N1CCOCC1 | C4H9NO
solvent | methanol | 5 ml | CO | CH4O
product | [4-(3-bromo-4,5-dimethoxy-phenyl)-2-morpholin-4-yl-chroman-7-yl]-dimethyl-amine | BrC=1C=C(C=C(C1OC)OC)C1CC(OC2=CC(=CC=C12)N(C)C)N1CCOCC1 | C23H29BrN2O4
